US04933458
In 50 ml of acetone was dissolved 2.0 g of 2-mercaptoquinoxaline. To the solution were added 2.02 g of 2-picolyl chloride hydrochloride, 4.0 g of potassium carbonate and 5 ml of water. The resulting mixture was stirred at room temperature for 0.5 hr., and the solvent was removed under reduced pressure. The residue was extracted with chloroform after addition of chloroform and water. The organic layer was separated and dried over sodium sulfate. The sodium sulfate was removed by filtration, and the filtrate was placed under reduced pressure to remove the solvent. To the residue were added 20 ml of ethanol and 1.03 ml of conc. hydrchloric acid and then added ether. Thus precipitated crystals were washed with ethanol-ether (1:1) and dried under reduced pressure to give 2.09 g of 2-(2-pyridylmethylthio)quinoxaline hydrochloride as a yellow crystalline powder.

reactant | 2-mercaptoquinoxaline | 2.0 g | SC1=NC2=CC=CC=C2N=C1 | C8H6N2S
reactant | 2-picolyl chloride hydrochloride | 2.02 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(2-pyridylmethylthio)quinoxaline hydrochloride | 2.09 g | Cl.N1=C(C=CC=C1)CSC1=NC2=CC=CC=C2N=C1 | InChI=1S/C14H11N3S.ClH/c1-2-7-13-12(6-1)16-9-14(17-13)18-10-11-5-3-4-8-15-11;/h1-9H,10H2;1H
